US09085540B2
A mixture of 5-chloro-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (200 mg), 1,3-phenylenediamine (288 mg), and N-methylpyrrolidone (0.8 mL) was reacted in a microwave device at 200° C. for 30 minutes. The mixture was subjected to liquid separation by the addition of ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution were added thereto for extraction. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-200:10:1), and was washed with ethyl acetate to obtain 5-[(3-aminophenyl)amino]-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (120 mg).

reactant | 5-chloro-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 200 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C | C18H23ClN6O
reactant | 1,3-phenylenediamine | 288 mg | C1(=CC(=CC=C1)N)N | C6H8N2
solvent | N-methylpyrrolidone | 0.8 mL | CN1C(CCC1)=O | C5H9NO
product | 5-[(3-aminophenyl)amino]-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 120 mg | NC=1C=C(C=CC1)NC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C | C24H30N8O
